US04440933
A. N-{2-[(5-piperidinomethyl-3-thienyl)methylthio]ethyl}ethanediimidamide trihydrochloride
A suspension of 3-amino-4-{2-[(5-piperidinomethyl-3-thienyl)methylthio]ethylamino}-1,2,5-thiadiazole 1-oxide (6.1 g; 15.8 mmoles) [prepared according to the procedure of U.S. Pat. No. 4,374,248] in 80 ml of methanol was treated with 10.5 ml of concentrated HCl. After stirring at ambient temperature for 3 hours, the solution was concentrated and the residue triturated with 50 ml of 1-propanol, filtered and dried to give 5.86 g (83%) of product. A sample was recrystallized from methanol-acetone to give the title compound, mp 201°-214° C. (dec.).

reactant | 3-amino-4-{2-[(5-piperidinomethyl-3-thienyl)methylthio]ethylamino}-1,2,5-thiadiazole 1-oxide | 15.8 mmoles, 6.1 g | NC1=NS(N=C1NCCSCC1=CSC(=C1)CN1CCCCC1)=O | C15H23N5OS3
reactant | HCl | 10.5 ml | Cl | ClH
solvent | methanol | 80 ml | CO | CH4O
product | N-{2-[(5-piperidinomethyl-3-thienyl)methylthio]ethyl}ethanediimidamide trihydrochloride | 5.86 g, 83% | Cl.Cl.Cl.N1(CCCCC1)CC1=CC(=CS1)CSCCNC(C(N)=N)=N | InChI=1S/C15H25N5S2.3ClH/c16-14(17)15(18)19-4-7-21-10-12-8-13(22-11-12)9-20-5-2-1-3-6-20;;;/h8,11H,1-7,9-10H2,(H3,16,17)(H2,18,19);3*1H
